US07989449B2
1-(3-Bromophenyl)-1-(-(2-methoxy-ethoxy)-phenyl)-ethene
A mixture of 4-[1-(3-bromo-phenyl)-vinyl]-phenol (1.2 g, 4.0 mmol, 1 eq) N,N-dimethylformamide (10 mL), and cesium carbonate (2.8 g, 8.0 mmol, 2.0 eq) was stirred at room temperature then 1-bromo-2-methoxy-ethane (0.5 mL, 1.0 eq) was added. The mixture was heated to 50° C. overnight, cooled to room temperature and treated with water (100 mL). The reaction was extracted with dichloromethane, dried (sodium sulfate) and concentrated in vacuo. The crude was purified by flash chromatography eluting with cyclohexane to afford the title compound as a colorless oil (1.7 g, 85%);

reactant | 4-[1-(3-bromo-phenyl)-vinyl]-phenol | 4.0 mmol, 10 mL, 1.2 g, 1 eq | BrC=1C=C(C=CC1)C(=C)C1=CC=C(C=C1)O | C14H11BrO
reactant | cesium carbonate | 8.0 mmol, 2.8 g, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-2-methoxy-ethane | 0.5 mL, 1.0 eq | BrCCOC | C3H7BrO
solvent | water | 100 mL | O | H2O
product | 1-(3-Bromophenyl)-1-(-(2-methoxy-ethoxy)-phenyl)-ethene | 1.7 g, 85% | BrC=1C=C(C=CC1)C(=C)C1=C(C=CC=C1)OCCOC | C17H17BrO2
